US07375134B2
A solution of (S)-(+)-leucinol (2.47 g, 21 mmol) and 2,4-difluorobenzaldehyde (3 g, 21 mmol) in benzene (50 mL) was heated to reflux for 4 hours during which time water was collected in a Dean-Stark trap. The solvent was evaporated in vacuum to give (2S)-2-[(2,4-difluorobenzylidene)-amino]-4-methylpentan-1-ol.

reactant | (S)-(+)-leucinol | 21 mmol, 2.47 g | N[C@@H](CC(C)C)CO | C6H15NO
reactant | 2,4-difluorobenzaldehyde | 21 mmol, 3 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | water | O | H2O
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | (2S)-2-[(2,4-difluorobenzylidene)-amino]-4-methylpentan-1-ol | FC1=C(C=N[C@H](CO)CC(C)C)C=CC(=C1)F | C13H17F2NO
